US06743794B2
Phenylthiomorpholin-4-ylacetic Acid Methyl Ester
To a solution of racemic α-bromophenylacetic acid methyl ester, 5.0 g (22.0 mmol) in 120 mL of tetrahydrofuran was added 3.4 mL (22.0 mmol) of triethylamine and 6.7 g (66.0 mmol) of thiomorpholine. The reaction mixture was refluxed for four hours, cooled to ambient temperature and concentrated to dryness. The residue was partitioned between 20% isopropanol/chloroform and water. The mixture was washed with saturated sodium bicarbonate, washed with brine, dried over sodium sulfate, filtered and concentrated to dryness. The residue was purified by chromatography using a methanol/chloroform gradient as eluent. A second purification was performed using chloroform as eluent and was concentrated to dryness to yield 5.36 g (97%) of the desired mixture of isomers as a yellow oil. MS (ion spray) 252.1 (M+).

reactant | racemic α-bromophenylacetic acid methyl ester | COC(C(Br)C1=CC=CC=C1)=O | C9H9BrO2
reactant | triethylamine | 22.0 mmol, 3.4 mL | C(C)N(CC)CC | C6H15N
reactant | thiomorpholine | 66.0 mmol, 6.7 g | N1CCSCC1 | C4H9NS
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | Phenylthiomorpholin-4-ylacetic Acid Methyl Ester | 5.36 g, 97% | COC(C(N1CCSCC1)C1=CC=CC=C1)=O | C13H17NO2S
